US07977351B2
5-Fluoro-3-{2-[2-(3-hydroxy-piperidin-1-yl)-ethyl]-7H-furo[3,4-b]pyridin-5-ylidene}-1,3-dihydro-indol-2-one
Following the method described in Example 19, 5-fluoro-3-(2-vinyl-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one (50 mg, 0.17 mmol) and 3-hydroxypiperidine (300 mg, 2.67 mmol) are reacted to provide the title compound (45 mg, 67%).

reactant | 5-fluoro-3-(2-vinyl-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one | 0.17 mmol, 50 mg | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)C=C | C17H11FN2O2
reactant | 3-hydroxypiperidine | 2.67 mmol, 300 mg | OC1CNCCC1 | C5H11NO
product | 5-Fluoro-3-{2-[2-(3-hydroxy-piperidin-1-yl)-ethyl]-7H-furo[3,4-b]pyridin-5-ylidene}-1,3-dihydro-indol-2-one | 45 mg, 67% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)CCN2CC(CCC2)O | C22H22FN3O3
